US06420364B1
Morpholine-4-carboxylic Acid {1-[3-Cyano-1-(5,5-dimethyl-3-oxo-cyclohex-1-enyl)-pyrrolidin-3-ylcarbamoyl]-2-cyclohexyl-ethyl}-amide
3-Cyano-3-{3-cyclohexyl-2-[(morpholine-4-carbonyl)-amino]-propionylamino}-pyrrolidine-1-carboxylic acid (2-propen-1-yl) ester (1.35 g, 2.93 mmol, 1.00 equiv) was dissolved in 35 mL of CH2Cl2 along with dimedone (3.30 g, 23.5 mmol, 8.03 equiv). Pd(PPh3)4 (0.25 g, 0.22 mmol, 0.07 equiv) was added and the suspension was stirred at room temperature for 3.5 h. The reaction mixture was concentrated and taken up into EtOAc (100 mL) and extracted with 1 N HCl (2×50 mL). Concentration of the organic phase and purification of the crude mixture by reverse-phase HPLC provide the product as two separate diastereomers; MS, m/z 500=M+1.

reactant | 3-Cyano-3-{3-cyclohexyl-2-[(morpholine-4-carbonyl)-amino]-propionylamino}-pyrrolidine-1-carboxylic acid (2-propen-1-yl) ester | 2.93 mmol, 1.35 g, 1.00 equiv | C(C=C)OC(=O)N1CC(CC1)(NC(C(CC1CCCCC1)NC(=O)N1CCOCC1)=O)C#N | C23H35N5O5
reactant | dimedone | 23.5 mmol, 3.30 g, 8.03 equiv | CC1(CC(=O)CC(=O)C1)C | C8H12O2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.22 mmol, 0.25 g, 0.07 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Morpholine-4-carboxylic Acid {1-[3-Cyano-1-(5,5-dimethyl-3-oxo-cyclohex-1-enyl)-pyrrolidin-3-ylcarbamoyl]-2-cyclohexyl-ethyl}-amide | C(#N)C1(CN(CC1)C1=CC(CC(C1)(C)C)=O)NC(=O)C(CC1CCCCC1)NC(=O)N1CCOCC1 | C27H41N5O4
